US06498170B2
1-{Benzyl-[1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-amino}-3-(9H-carbazol-4-yloxy)-propan-2-ol
To a solution of benzyl-[1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-amine (0.14 g, 0.37 mmol) in methanol (2 ml) was added (2S)-3-(9H-carbazol-4-yloxy)-methyl oxirane (0.11 g, 0.45 mmol) and the mixture was stirred at reflux for 3 days. The methanol was then evaporated, and the residue was washed with a mixture of ether and hexanes to give 0.24 g of an off-white solid; m.p. 65-67° C.; MS (ES) m/z 614.2 (MH+); HRMS (ES) Calcd. for C35H40N3O5S (MH+): 614.2689, Found: 614.2706.

reactant | benzyl-[1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-amine | 0.37 mmol, 0.14 g | C(C1=CC=CC=C1)NC1CN(C1)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C20H26N2O3S
reactant | (2S)-3-(9H-carbazol-4-yloxy)-methyl oxirane | 0.45 mmol, 0.11 g | C1=CC=C(C=2C3=CC=CC=C3NC12)OC1[C@@H](O1)C | C15H13NO2
solvent | methanol | 2 ml | CO | CH4O
product | 1-{Benzyl-[1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-amino}-3-(9H-carbazol-4-yloxy)-propan-2-ol | 0.24 g | C(C1=CC=CC=C1)N(CC(COC1=CC=CC=2NC3=CC=CC=C3C12)O)C1CN(C1)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C35H39N3O5S
